US07044987B2
A) Synthesis of N-[2-(6-methoxy-3-nitro-2-pyridylamino)ethyl]acetamide
4 g (0.0212 mol) of the product 2-chloro-3-nitro-6-methoxypyridine, 50 ml of ethanol and 4.51 ml (0.0424 mol) of N-acetylethane-1,2-diamine are placed in a fully equipped round-bottomed flask. The mixture is refluxed for 2 hours with stirring and is then poured onto an ice/water mixture with stirring. The precipitate formed is filtered off by suction and dried under vacuum to constant weight. 3.9 g of yellow powder are obtained, ie a yield of 72.5%.

reactant | 2-chloro-3-nitro-6-methoxypyridine | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | N-acetylethane-1,2-diamine | 0.0424 mol, 4.51 ml | C(C)(=O)NCCN | C4H10N2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-[2-(6-methoxy-3-nitro-2-pyridylamino)ethyl]acetamide | 3.9 g, yield of 72.5% | COC1=CC=C(C(=N1)NCCNC(C)=O)[N+](=O)[O-] | C10H14N4O4
